US08044209B2
A solution of Boc-N-methyl-L-α-alanine (53 mg, 0.26 mmol), HOBt (39 mg, 0.29 mmol) and HBTU (108 mg, 0.29 mmol) in DMF (10 mL) is stirred at room temperature for 30 min. Then a solution of (S)-2-Amino-2-cyclohexyl-1-{(S)-2-[2-(2,3-dihydro-indol-1-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-ethanone in DMF (10 mL) is added, followed by diisopropylethylamine (153 mg, 1.19 mmol). The mixture is stirs at room temperature for 2 h, then diluted with water and extracted with EtOAc. The combined organic layers are washed with water, sat. NaHCO3, brine, dried over Na2SO4, filtered and concentrated down. The crude product is dissolved in dichloromethane (5 mL). TFA (5 mL) is added. The resulting mixture is stirred at room temperature for 1 h and concentrated down to give a crude product, which is purified by prep. reverse phase HPLC (Column: Waters Sunfire Prep C18 OBD 5 μM 30×100 mm; Gradient: AcCN/water with 0.1% TFA: 10%˜70%) to give (S)—N—((S)-1-Cyclohexyl-2-{(S)-2-[2-(2,3-dihydro-indol-1-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-2-oxo-ethyl)-2-methylamino-propionamide (72 mg, 42%) as a TFA salt. M/Z=490.2 [M+1].

reactant | HOBt | 0.29 mmol, 39 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.29 mmol, 108 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (S)-2-Amino-2-cyclohexyl-1-{(S)-2-[2-(2,3-dihydro-indol-1-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-ethanone | N[C@H](C(=O)N1[C@@H](CCC1)C1=CC(=NC=C1)N1CCC2=CC=CC=C12)C1CCCCC1 | C25H32N4O
reactant | diisopropylethylamine | 1.19 mmol, 153 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)—N—((S)-1-Cyclohexyl-2-{(S)-2-[2-(2,3-dihydro-indol-1-yl)-pyridin-4-yl]-pyrrolidin-1-yl}-2-oxo-ethyl)-2-methylamino-propionamide | 72 mg, 42% | C1(CCCCC1)[C@@H](C(=O)N1[C@@H](CCC1)C1=CC(=NC=C1)N1CCC2=CC=CC=C12)NC([C@H](C)NC)=O | C29H39N5O2
